US07105530B2
N-(2-chloropyrimidin-4-yl)-N,3-dimethyl-1H-indazol-6-amine (2 g, 7.31 mmol) was dissolved in DMF (15 ml), and Cs2CO3 (2 g, 14.6 mmol) and 3-chlorobenzyl bromide (1.25 ml, 9.5 mmol) were added at room temperature. Mixture was stirred at rt for overnight. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was separated. The aqueous layer was thoroughly extracted with EtOAc. The combined organic layers were dried over anhydrous MgSO4, filtered and evaporated to give 2-(3-chlorobenzyl)-N-(2-chloropyrimidin-4-yl)-N,3-dimethyl-2H-indazol-6-amine as an off-white solid. 1H NMR (300 MHz, d6DMSO) δ 7.94 (d, J=6.0 Hz, 1H), 7.83 (d, J=8.8 Hz, 1H), 7.56 (d, J=1.3 Hz, 1H), 7.36–7.38 (m, 2H), 7.32 (br s, 1H), 7.16 (m, 1H), 6.91 (m, 1H), 6.28 (d, J 6.1 Hz, 1H), 5.65 (s, 2H), 3.42 (s, 3H), 2.63(s, 3H). MS (ES+, m/z) 398 (M+H).

reactant | N-(2-chloropyrimidin-4-yl)-N,3-dimethyl-1H-indazol-6-amine | 7.31 mmol, 2 g | ClC1=NC=CC(=N1)N(C1=CC=C2C(=NNC2=C1)C)C | C13H12ClN5
reactant | Cs2CO3 | 14.6 mmol, 2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chlorobenzyl bromide | 9.5 mmol, 1.25 ml | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-chlorobenzyl)-N-(2-chloropyrimidin-4-yl)-N,3-dimethyl-2H-indazol-6-amine | ClC=1C=C(CN2N=C3C=C(C=CC3=C2C)N(C)C2=NC(=NC=C2)Cl)C=CC1 | C20H17Cl2N5
